US07820662B2
cis-3-[8-Chloro-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanol
An ethanolic suspension (20 mL) of 3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutanone: (2.5 mmol) was charged with NaBH4 (2.5 mmol) at rt. The reaction mixture was stirred at rt for 30 min until the reaction solution turned clear. The reaction mixture was quenched by an addition of Na2SO4 10H2O and concentrated under reduced pressure. The crude mixture was dissolved in DCM, washed with water (3×15 mL), dried over Na2SO4, filtered and concentrated in vacuo to afford the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 8.28 (d, J=8.0 Hz, 1H), 8.19 (d, J=8.0 Hz, 2H), 7.93-7.87 (m, 3H), 7.58-7.52 (m, 3H), 7.47-7.45 (m, 1H), 7.37 (d, J=5.2 Hz, 1H), 4.44 (b, 1H), 3.37 (p, J=8.0 Hz, 1H), 3.03-2.96 (m, 2H), 2.60-2.53 (m, 2H); MS (ES+): m/z 427 (100) [MH+].

reactant | NaBH4 | 2.5 mmol | [BH4-].[Na+]
reactant | 3-[8-chloro-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclobutanone | 20 mL | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CC(C2)=O | C25H17ClN4O
product | cis-3-[8-Chloro-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-yl]-cyclobutanol | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2C[C@H](C2)O | C25H19ClN4O
